US05866568
A 1M solution of acetic acid in dimethoxyethane (5.6 ml) was added dropwise over 3 hours to a mixture of 2-[4-(2-[methoxycarbonyl]vinyl)phenyl]-N-isobutoxycarbonyl-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide (250 mg) and potassium azodicarboxylate (1.4 g) in dry dimethoxyethane (20 ml) at 45° C. The mixture was heated at 45° C. for 18 hours. Insoluble material was removed by filtration and the filtrate was concentrated. The residue was eluted through a pad of silica gel with ethyl acetate/hexane (1:3 v/v) and the resulting solid (230 mg) was dissolved in a mixture of tetrahydrofuran (16 ml) and methanol (4 ml). A solution of lithium hydroxide (118 mg) in water (4 ml) was added and the solution was stirred for 18 hours. Volatile material was removed by evaporation and the residue was dissolved in water (15 ml). The solution was washed with ethyl acetate (2×15 ml) and acidified with 20% aqueous citric acid. The mixture was extracted with ethyl acetate (2×15 ml) and the extracts were washed with water (10 ml) and saturated sodium chloride solution (50 ml) and dried (MgSO4). Volatile material was removed by evaporation and the residue was triturated with ether to give 2-[4-(2-carboxyethyl)phenyl]-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide (42 mg), m.p. 166°-168° C.; 1H NMR (CDCl3): 2.25 (s, 3 H), 2.6 (t, 2 H), 3.0 (t, 2 H), 3.8 (s, 3 H), 7.2-7.3 (m, 5 H), 7.45-7.55 (m, 1 H), 8.65 (d, 1 H), 8.8 (d, 1 H), 10.25-10.5 (br, 1 H).

reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | 2-[4-(2-[methoxycarbonyl]vinyl)phenyl]-N-isobutoxycarbonyl-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide | 250 mg | COC(=O)C=CC1=CC=C(C=C1)C1=NC=CC=C1S(=O)(=O)N(C1=NC=C(N=C1OC)C)C(=O)OCC(C)C | C26H28N4O7S
reactant | potassium azodicarboxylate | 1.4 g | N(=NC(=O)[O-])C(=O)[O-].[K+].[K+]
solvent | dimethoxyethane | 5.6 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 20 ml | C(OC)COC | C4H10O2
product | 2-[4-(2-carboxyethyl)phenyl]-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide | 42 mg | C(=O)(O)CCC1=CC=C(C=C1)C1=NC=CC=C1S(=O)(=O)NC1=NC=C(N=C1OC)C | C20H20N4O5S
